US08217065B2
E. 3-(4-{6-[5-(4-Methoxyphenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethylphenyl)-propionic acid methyl ester
A solution of (E)-3-(4-{6-[5-(4-methoxyphenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethylphenyl)-acrylic acid methyl ester (1.0 g) in 40 mL EtOH/THF (1:1) was hydrogenated over 5% Pd/C (300 mg) at one atm for 3 h. The catalyst was filtered through Celite and was washed with EtOH and THF. The solvent was removed under reduced pressure and the residue was purified by flash chromatography (heptane/EtOAc=1:2) to give the title compound. MS: m/z 483 (M+1).

reactant | (E)-3-(4-{6-[5-(4-methoxyphenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethylphenyl)-acrylic acid methyl ester | 1.0 g | COC(\C=C\C1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=C(C=C2)C=2OC(=NN2)C2=CC=C(C=C2)OC)C)=O | C28H24N4O4
solvent | EtOH THF | 40 mL | CCO.C1CCOC1
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 3-(4-{6-[5-(4-Methoxyphenyl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethylphenyl)-propionic acid methyl ester | COC(CCC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=C(C=C2)C=2OC(=NN2)C2=CC=C(C=C2)OC)C)=O | C28H26N4O4
